US09102616B2
Intermediate 1: Synthesis of (2-Bromocarbazole)
A 250 mL round bottom flask was charged with 4-Bromo-2-nitrobenzene (19.2 g, 69.04 mmol), and triethyl phosphate (84 mL, 483.28 mmol). Then, at 160° C. to 165° C., the mixture was heated under reflux for 14 hours. After the reaction was completed, the remaining triethyl phosphate was removed by vacuum distillation. The resultant product was diluted with a mixed solvent of MeOH:H2O=1:1, and the produced solid was filtered. The obtained solid was washed with a mixed solvent of MeOH:H2O=1:1 and petroleum ether.

reactant | 4-Bromo-2-nitrobenzene | 69.04 mmol, 19.2 g | BrC1=CC(=CC=C1)[N+](=O)[O-] | C6H4BrNO2
reactant | triethyl phosphate | 483.28 mmol, 84 mL | P(=O)(OCC)(OCC)OCC | C6H15O4P
product | 2-Bromocarbazole | BrC1=CC=2NC3=CC=CC=C3C2C=C1 | C12H8BrN
